US07910595B2
A mixture of 4-chloro-3-nitrobenzoyl chloride was reacted with Phenylamine to produce 4-Chloro-3-nitro-N-phenyl-benzamide according to the procedure of Example 10A, which was treated sequentially using the procedures from Examples 22A and 22B to provide the title product.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | Phenylamine | C1(=CC=CC=C1)N | C6H7N
product | 4-Chloro-3-nitro-N-phenyl-benzamide | ClC1=C(C=C(C(=O)NC2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H9ClN2O3
